US04827004
A solution of 2.0 g (0.008 mol) of (E,E)-3,7,11-trimethyl-10-oxo-2,6,11-dodecatrienamide in 60 ml of methanol is treated with 2.3 ml of methyl thioglycolate and 3.4 ml of triethylamine. The solution is stirred at room temperature for 8 hours under argon. After removing the solvent the residue is taken up in water and methylene chloride. After extraction the organic phase is dried and freed from solvent. The residue is chromatographed on silica gel with ether-methanol 20:1. There is obtained methyl [[(6E,10E)-11-carbamoyl-2,6,10-trimethyl-3-oxo-6,10-undecadienyl]thio]acetate which exhibits the following absorption bands in the IR spectrum: 3447 cm-1, 3352 cm-1, 3195 cm-1, 1735 cm-1, 1712 cm-1, 1669 cm-1, 1638 cm-1 1609 cm-1, 1436 cm-1, 1300 cm-1, 1137 cm-1, 1008 cm-1.

reactant | (E,E)-3,7,11-trimethyl-10-oxo-2,6,11-dodecatrienamide | 0.008 mol, 2.0 g | C\C(=C/C(=O)N)\CC\C=C(\CCC(C(=C)C)=O)/C | C15H23NO2
reactant | methyl thioglycolate | 2.3 ml | C(CS)(=O)OC | C3H6O2S
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 60 ml | CO | CH4O
product | methyl [[(6E,10E)-11-carbamoyl-2,6,10-trimethyl-3-oxo-6,10-undecadienyl]thio]acetate | C(N)(=O)/C=C(/CC/C=C(/CCC(C(CSCC(=O)OC)C)=O)\C)\C | C18H29NO4S
